US05344843
Sodium hydride (55%; 0.238 g) and 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.978 g) in dimethylformamide (12 mL) were stirred at room temperature for 30 minutes and then 2-chloro-1-(1-naphthalenyl)ethanone (1 g) in dimethylformamide (6 mL) was added. The reaction mixture was stirred at 60° C. overnight and worked up as in Example 20. The crude product (1.7 g) was purified by flash chromatography over silica gel (ethyl acetate-hexane-dichloromethane; 2.5:37.5:60) to afford of 0.277 g of 4-[2-(1 -naphthalenyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid methyl ester. Crystallization of the ester from ethyl acetate-hexane gave the analytical specimen, mp 99°-100.5° C.

reactant | Sodium hydride | 0.238 g | [H-].[Na+]
reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.978 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | 2-chloro-1-(1-naphthalenyl)ethanone | 1 g | ClCC(=O)C1=CC=CC2=CC=CC=C12 | C12H9ClO
solvent | dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 4-[2-(1 -naphthalenyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid methyl ester | 0.277 g | COC(C(C1=CC=C(C=C1)OCC(=O)C1=CC=CC2=CC=CC=C12)=O)=O | C21H16O5
